US04407814
14.5 g. of 3-trifluoromethyl-4-chlorophenyl-isocyanate and 5.5 g. of α-aminoisobutyronitrile are kept at 100° for 20 minutes. For purification, the viscous oil obtained is chromatographed on 500 g. of silica gel (particle size about 0.06-0.2 mm) using methylene chloride/methanol. The product obtained is crystallized from methylene chloride/petroleum ether. After drying under greatly reduced pressure at 50° for 15 hours, 1-(3-trifluoromethyl-4-chlorophenyl)-5-imino-4,4-dimethyl-2-imidazolidinone, which melts at 148°-149°, is obtained.

reactant | 3-trifluoromethyl-4-chlorophenyl-isocyanate | FC(C=1C=C(C=CC1Cl)N=C=O)(F)F | C8H3ClF3NO
reactant | α-aminoisobutyronitrile | NC(C#N)(C)C | C4H8N2
product | 1-(3-trifluoromethyl-4-chlorophenyl)-5-imino-4,4-dimethyl-2-imidazolidinone | FC(C=1C=C(C=CC1Cl)N1C(NC(C1=N)(C)C)=O)(F)F | C12H11ClF3N3O
